US05726128
Synthesis of 4-benzyloxy-6-methyl-2-(phenoxy)pyrimidine (Compound I-6)
4-Benzyloxy-6-methyl-2-(methylsulfonyl)pyrimidine (Compound II-4) (0.45 g, 0.00162 mol) was added thereto and the resulting solution was allowed to react for about 2 hours at room temperature. The reaction solution was poured into water and extracted with ethyl acetate to separate an organic phase. The obtained organic phase was washed successively with aqueous saturated sodium hydrogen carbonate and aqueous saturated sodium chloride, then dried over anhydrous sodium sulfate and thereafter concentrated. The concentrate was purified on silica gel column to obtain the end product.

reactant | 4-Benzyloxy-6-methyl-2-(methylsulfonyl)pyrimidine | 0.00162 mol, 0.45 g | C(C1=CC=CC=C1)OC1=NC(=NC(=C1)C)S(=O)(=O)C | C13H14N2O3S
reactant | water | O | H2O
product | 4-benzyloxy-6-methyl-2-(phenoxy)pyrimidine | C(C1=CC=CC=C1)OC1=NC(=NC(=C1)C)OC1=CC=CC=C1 | C18H16N2O2
